US05719186
A mixture of (Z)-2-(2-bromo-6-fluoro-1-indanylidene)acetamide (2.60 g, 9.60 mmoles) and silver nitrate (5.10 g, 27.43 mmoles, Aldrich) in methanol (200 mL) was refluxed for 8 hours. Additional silver nitrate (5.10 g, 27.43 mmoles) was added and the mixture was refluxed for 18 hours. The mixture was filtered, and the filtrate was evaporated in vacuo. The residue was chromatographed on silica gel, eluting with hexane:ethyl acetate (1:4), gradually increasing the polarity to 100% ethyl acetate. The fractions containing the compound with Rf=0.15 with hexane:ethyl acetate (1:1) as the eluant were combined and evaporated in vacuo and dried in a vacuum at 50° C. for 18 hours to give 0.68 g (32%) of crude (Z)-2-(6-fluoro-2-methoxy-1-indanylidene)acetamide as a tan solid. Recrystallization from ethyl acetate:hexane mixtures gave 0.49 g (23%) of (Z)-2-(6-fluoro-2-methoxy-1-indanylidene)acetamide as an off-white solid, mp 128°-130° C.; 1H-NMR (DMSO-d6): d 7.13-7.48 (m, 5H), 6.54 (s, 1H), 5.34 (d, 1H), 3.25 (s, 3H), 3.05 (dd, 1H, J=5.7 Hz, 17.3 Hz), and 2.87 (d, 1H, J=17.1 Hz).

reactant | (Z)-2-(2-bromo-6-fluoro-1-indanylidene)acetamide | 9.60 mmoles, 2.60 g | BrC1\C(\C2=CC(=CC=C2C1)F)=C/C(=O)N | C11H9BrFNO
reactant | methanol | 200 mL | CO | CH4O
catalyst | silver nitrate | 27.43 mmoles, 5.10 g | [N+](=O)([O-])[O-].[Ag+]
catalyst | silver nitrate | 27.43 mmoles, 5.10 g | [N+](=O)([O-])[O-].[Ag+]
product | (Z)-2-(6-fluoro-2-methoxy-1-indanylidene)acetamide | 0.68 g, 32% | FC1=CC=C2CC(\C(\C2=C1)=C/C(=O)N)OC | C12H12FNO2
